US07501430B2
17b: Preparation of 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}benzoic acid
To a solution of 3-(5-{2-[(R)-1-(4-chloro-benzenesulfonyl)-piperidin-3-ylamino]-pyrimidin-4-yl}-imidazo[2,1-b]thiazol-6-yl)-N-methoxy-N-methyl-benzamide (0.57 g, 0.089 mmol) in a mixture of methanol (1.0 mL) and tetrahydrofuran (THF) (3.0 mL) was added a solution of lithium hydroxide (0.075 g, 0.179 mmoL) in water (1.0 mL). The mixture was stirred at room temperature for 48 hours. Solvent was removed to dryness. Residue was dissolved into a mixture of dichloromethane (20 mL) and 1.0 N HCl (1.0 mL). Organic layer was separated, washed with water (5 mL×4), dried over sodium sulfate and concentrated to dryness. The residue was dried further under high vacuum at 45° C. for 24 hours to provide 0.45 g (85%) as a yellow solid. M.p.=190-195° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.70 (br. s, 1H), 8.16(bs, 1H), 8.12 (d, J=5.2 Hz, 1H), 7.99 (d, J=8.0 Hz, 1H), 7.78-7.83 (m, 1H), 7.77-7.74 (m, 2H), 7.68-7.65 (m, 2H), 7.58 (t, J=8.0 Hz, 1H), 7.41 (d, J=4.4 Hz, 1H), 7.17 (d, J=6.8 Hz, 1H), 6.37 (d, J=5.2 Hz, 1H), 3.92 (br. s, 1H), 3.75-3.71 (m, 1H), 3.48-3.45 (m, 1H), 2.49-2.43 (m, 1H), 2.32 (t, J=10.4 Hz, 1H), 1.90-1.82 (m, 2H), 1.59-1.56 (m, 1H), 1.39-1.32 (m, 1H). LCMS: 596 [M+H].

reactant | 3-(5-{2-[(R)-1-(4-chloro-benzenesulfonyl)-piperidin-3-ylamino]-pyrimidin-4-yl}-imidazo[2,1-b]thiazol-6-yl)-N-methoxy-N-methyl-benzamide | 0.089 mmol, 0.57 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C(=O)N(C)OC)C=CC2 | C29H28ClN7O4S2
reactant | lithium hydroxide | 0.075 g | [OH-].[Li+]
solvent | methanol | 1.0 mL | CO | CH4O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}benzoic acid | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C(=O)O)C=CC2 | C27H23ClN6O4S2
